* 600V Capacitor Discharger — transient simulation
* Template placeholders: C_mid_100V_100uF 100 1.000000e-04 1m 5
* Generated by run_sim.py — do not edit directly.
.include E:/Catalin/Work/Electronics/CapacitorDischarger_Claude/simulation/models.lib
.param V0=100 CDUT=1.000000e-04

* ── DUT capacitor with initial condition ─────────────────────
C_dut HVp 0 {CDUT} IC={V0}

* ── Slow path: 5 × 4.7 kΩ in series ────────────────────────
* V_islow is a 0 V ammeter placed at the branch head
V_islow HVp n_slow1 0
R_slow1 n_slow1 n_slow2 4.7k
R_slow2 n_slow2 n_slow3 4.7k
R_slow3 n_slow3 n_slow4 4.7k
R_slow4 n_slow4 n_slow5 4.7k
R_slow5 n_slow5 0       4.7k

* ── Fast path: R_fast → Q2 (MOSFET) drain→source→GND ───────
V_ifast HVp n_rfast 0
R_fast  n_rfast n_drain 50
M_Q2    n_drain n_gate 0 0 STF7NM80

* Gate drive: R5 pull-up from HVp, D9 clamps to 12 V
* Q1 NPN: saturates above 71 V → pulls n_gate_top low → Q2 off
R5      HVp n_gate_top 470k
D_D9    0   n_gate_top DZ12
R4      n_gate_top n_gate 100
C_byp2  n_gate 0 100n

* Q1 base divider: R1 (1 MΩ) / R2 (10 kΩ) → threshold ≈ 70.7 V
R1      HVp n_base_top 1Meg
R2      n_base_top 0   10k
R3      n_base_top n_q1b 100k
Q1      n_gate_top n_q1b 0 Q2N3904

* ── LED danger indicator (cutoff ≈ 10.2 V) ──────────────────
* OFF below V_Z(8.2V) + Vf(2V) = 10.2 V
V_iled  HVp n_led1 0
R_LED1  n_led1 n_led2 100k
R_LED2  n_led2 n_led3 100k
R_LED3  n_led3 n_dled 100k
D_DLED  n_led_a n_dled DZ8V2
D_LED1  n_led_a 0      DLED

* ── DVM signal divider 6:1 (0–600 V → 0–100 V) ─────────────
V_isig  HVp n_sig1 0
R_sig1  n_sig1 n_sig2 100k
R_sig2  n_sig2 n_sig3 100k
R_sig3  n_sig3 n_sig4 100k
R_sig4  n_sig4 n_sig5 100k
R_sig5  n_sig5 n_sigout 100k
R_sigb  n_sigout n_rcal 100k
R_cal   n_rcal 0       1

* ── DVM Vcc: 4 × 15 kΩ dropper + 15 V Zener + 10 µF cap ───
V_idrop HVp n_drop1 0
R_drop1 n_drop1 n_drop2 15k
R_drop2 n_drop2 n_drop3 15k
R_drop3 n_drop3 n_drop4 15k
R_drop4 n_drop4 n_vcc   15k
D_DVcc  0       n_vcc   DZ15
C_Vcc   n_vcc 0 10u
C_byp1  n_vcc 0 100n
R_dvm_load n_vcc 0 5k

* ── Initial conditions ───────────────────────────────────────
.ic V(HVp)={V0} V(n_vcc)=0

* ── Transient analysis ───────────────────────────────────────
.tran 1m 5 uic

* ── Save variables ───────────────────────────────────────────
.save V(HVp) V(n_gate) V(n_gate_top) V(n_sigout) V(n_vcc) V(n_led_a)
.save I(V_islow) I(V_ifast) I(V_iled) I(V_isig) I(V_idrop)

* ── Run and export ───────────────────────────────────────────
.control
run
wrdata E:/Catalin/Work/Electronics/CapacitorDischarger_Claude/simulation/results/C_mid_100V_100uF/out.csv V(HVp) V(n_gate) V(n_gate_top) V(n_sigout) V(n_vcc) V(n_led_a) I(V_islow) I(V_ifast) I(V_iled) I(V_isig) I(V_idrop)
quit
.endc

.end
